Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / lactose
 
Attending: ___.
 
Chief Complaint:
malaise, high blood sugars
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ old woman with history IDDM on insulin 
pump, HTN, CKD, recurrent UTI's who presented to ED w/one month 
of malaise and elevated blood glucose. 

Patient has been seen multiple times in ED as of late, most 
recently for chest pain and SOB on ___ at which time CTA was 
negative for PE and work up was negative for cardiac or 
infectious source of her symptoms. Prior to that she was seen 
for cough, dyspnea and diagnosed with pneumonia. Per the patient 
she completed two separate course of antibiotics and a course of 
antiviral treatment. Today patient reports she has continued to 
feel unwell since completing her treatment for pneumonia. She 
has also been experiencing elevated blood sugars, despite 
increasing her insulin basal rate/boluses on her insulin pump. 
In addition she reports 3 days of LLQ pain and small amounts of 
vaginal discharge. Endorses intermittent L sided chest and 
should pain, identical to pain she was worked up for on ___ 
w/negative CTA.  

Of note, patient has very long, complicated history of 
leukocytosis, elevated inflammatory markers and somatic 
complaints for which she has been seen by rheumatology and 
infectious disease. She has been evaluated for vasculitis, 
connective tissue disease, autoimmune disorders and persistent 
infection, all of which has been negative.  
 
In the ED, initial vitals: 99.7 105 137/73 20 99% RA. Pelvic 
exam performed which revealed white curdish discharge consistent 
with candidiasis. Labs notable for WBC 12.8 (baseline), Hb 10.6 
(baseline), Cr 1.6 (b/l 1.2-1.4), Lactate 2.5, AST/AP mildly 
elevated at 41 and 130 respectively. UA negative, urine HCG 
negative, Flu A/B negative. EKG NSR rate 102, no ST changed. CXR 
revealed subtly opacity in L lower lung, most likely 
atelectasis, but unable to exclude early PNA. CT A/P (prelim 
read) showed "mild fullness of the right ureter without definite 
obstructive stone. Appendix is not visualized but there are no 
secondary signs of inflammation the right lower quadrant".  
 
 Patient was given IVF, fluconazole 150mg, IV morphine, 
Gabapentin and was admitted to medicine for further management. 
Vitals prior to transfer: 98.6 92 113/63 18 97% RA  
 
 On the floor, patient reports intermittent sharp chest pain, 
back pain and ROS is universally positive for fevers (to 99.9 at 
home, but patient says this is fever for her), cough, nausea, 
vomiting, dysuria and one episode of diarrhea. Also emphasizes 
that her blood sugars have been completely out of control at 
home, up to 600. She is certain she has an infection and is 
anxious to figure out what is going on.  
 
ROS:  per HPI  
 
 
Past Medical History:
#DM1 since age ___ w/gastroparesis and retinopathy
#DM CKD
#Obesity -- lowest weight as an adult reported as 128 pounds
#Body dysmorphia with eating disorder associated with weight 
gain
#Recurrent dehydration and UTIs
#Anxiety, depression, insomnia
#HTN, hyperlipidemia
#Iron deficiency anemia (at least in part due to decr epo ___
CKD, was given iron infusion)
#Leukocytosis (thought reactive due to inflammatory state,
___ molecular studies on peripheral blood did not
implicate a myeloproliferative neoplasm), thrombocytosis
#L temporal headaches in ___ with fatigue, low-grade fevers
and markedly elevated CRP, ESR of unclear etiology -- had
significant evaluation by numerous specialists including
Rheumatology, Infectious Disease, Neurology and Hepatology with
imaging of CNS, chest and abdominal MRIs with no signs of
vasculitis and incidental finding of L ICA occlusion thought ___
spontaneous dissection rather than occlusion due to a vasculitic
process, per Dr. ___ in neurology (see ___ WebOMR
note) -- is on hydroxychloroquine and ASA.  Given young age, 
lack
of jaw claudication she was thought not to have temporal
arteritis.  Quantiferon TB gold was negative as was SPEP.  Last
plan from Rheumatology was to have her seen in the
___ clinic here at ___
#Polyneuropathy -- multifactorial from diabetes and possible
carpal tunnel syndrome, planning EMG/NCS to evaluate severity
of disease, given steroid injections and gabapentin
#Benign adenoma of liver found incidentally on MRI abd (plan to
have f/u MRI)
#Abdominal bloating, constipation with unremarkable endoscopies

PSHx:
Breast reduction surgery and liposuction in ___

 
Social History:
___
Family History:
Father with DM2 and hypothyroidism
Mom with esophageal abnormality and hypothyroidism
No other family history of GI disorder or malignancy.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
 VS: 98.4 PO 140 / 81 L Sitting 100 18 97 RA  
 GEN: Alert, lying in bed, no acute distress  
 HEENT: Moist MM, anicteric sclerae, white exudates on tongue
 NECK: Supple without LAD, no JVD  
 PULM: CTABL no wheezes or rhonchi.  
 COR: RRR (+)S1/S2 no m/r/g  
 ABD: obese, soft, non-tender, non-distended, +BS, no HSM  
 BACK: No CVA TTP  
 EXTREM: Warm, well-perfused, no edema
 NEURO: AOx4, diminished sensation ext ___ 

DISCHARGE PHYSICAL EXAM: 
========================
 VS: T98 PO 129 / 78 87 18 98 RA 
 GEN: Alert, lying in bed, no acute distress  
 HEENT: dry MM, anicteric sclerae, EOMi 
 NECK: Supple without LAD, no JVD  
 PULM: CTABL no wheezes or rhonchi.  
 COR: RRR (+)S1/S2 no m/r/g, no friction rub, no JVP
 ABD: obese, soft, non-tender, non-distended, +BS, no HSM  
 BACK: No CVA, but diffuse ttp left paraspinal muscles 
 EXTREM: Warm, well-perfused, no PE
 NEURO: AOx4, diminished sensation ext ___, patellar and Achilles 
reflexes absent bl 

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 07:03PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 03:50PM URINE  HOURS-RANDOM
___ 03:50PM URINE  HOURS-RANDOM
___ 03:50PM URINE  UCG-NEGATIVE
___ 03:50PM URINE  GR HOLD-HOLD
___ 03:50PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 02:45PM   ___ PTT-28.4 ___
___ 01:57PM   ___ PO2-57* PCO2-39 PH-7.44 TOTAL CO2-27 
BASE XS-1
___ 01:57PM   LACTATE-2.5*
___ 01:49PM   GLUCOSE-209* UREA N-45* CREAT-1.6* SODIUM-140 

POTASSIUM-4.6 CHLORIDE-98 TOTAL CO2-23 ANION GAP-24*
___ 01:49PM   estGFR-Using this
___ 01:49PM   ALT(SGPT)-23 AST(SGOT)-41* ALK PHOS-130* TOT 
BILI-<0.2
___ 01:49PM   cTropnT-<0.01
___ 01:49PM   ALBUMIN-3.7 CALCIUM-9.2 PHOSPHATE-3.8 
MAGNESIUM-1.9
___ 01:49PM   WBC-12.8* RBC-3.53* HGB-10.6* HCT-33.9* 
MCV-96 MCH-30.0 MCHC-31.3* RDW-13.0 RDWSD-46.0
___ 01:49PM   NEUTS-80.0* LYMPHS-13.5* MONOS-3.5* EOS-2.1 
BASOS-0.2 IM ___ AbsNeut-10.25* AbsLymp-1.73 AbsMono-0.45 
AbsEos-0.27 AbsBaso-0.03
___ 01:49PM   PLT COUNT-445*

DISCHARGE LABS: 
==============
___ 04:31AM BLOOD Glucose-63* UreaN-35* Creat-1.3* Na-142 
K-3.6 Cl-104 HCO3-26 AnGap-16

IMAGING: 
========
CXR ___
Subtle opacity in the left lower lung most likely atelectasis 
and
bronchovascular crowding, difficult to exclude an early 
pneumonia in the
correct clinical setting.

CT ABD/PELVIS ___

Impression: Mild fullness of the right ureter without 
obstructive stone.

MICRO:
======
GC/C Negative
[] BCx pending at ___

 
Brief Hospital Course:
Ms. ___ is a ___ with history of IDDM on insulin pump, HTN, 
CKD, recurrent UTI's who presented to ED w/one month of malaise 
and elevated blood glucose.

#LLQ Pain
#Vaginal Candiasis
Patient w/2 days LLQ pain, increased vaginal discharge and 
constipation x 4 days. Benign abdominal exam w/ findings c/w 
candidiasis on pelvic exam. CT A/P showed no evidence of 
inflammation (although appendix not visualized) with possible 
right ureter enhancement w/ no obstruction. No CMT/adnexal 
tenderness on vaginal exam, no documented fevers and 
leukocytosis at baseline. No evidence of UTI on UA, no new 
sexual partners per patient. Treated w/ single dose of 
fluconazole. Patient reported overall improvement during 
hospital course and remained afebrile and HDS. 

#IDDM/DM1 with nephropathy, neuropathy, retinopathy  
#Hyperglycemia
Patient w/type 1 DM on insulin pump and reports grossly 
uncontrolled blood sugars at home, despite increases in basal 
and bolus insulin. Only sign of infection on exam is vaginal 
candidiasis. She has not changed her diet recently (although 
slightly decreased PO over past ___ days) and continues to carb 
count. Of note, patient urine w/out glucose and blood sugars 
90's-200s throughout hospital course. Patient seem by ___ who 
felt hyperglycemia may be related to patient's vaginitis. 
Recommended outpt follow-up. 

___
Patient's Cr 1.6, up from baseline 1.2-1.4. Patient appeared dry 
on admission  w/mildly elevated lactate. Thought to be pre-renal 
iso decreased PO intake. Resolved to baseline with fluids. 

#Chest pain  
#Cough
Patient complains of constant, sharp L sided chest pain and dry 
cough for >1 month. Has undergone treatment x 2 for pneumonia 
and had negative CTA on ___. During hospitalization she was 
HDS, satting well on RA. Mildly tachycardic with HR in 100s 
attributed to hypovolumia. Trop .03 with normal CK-MB, EKG at 
baseline. CXR shows possible LLL consolidation that is most 
likely atelectasis. Again, in absence of fever or leukocytosis 
above baseline, will hold off on treatment for pneumonia.  

#Depression
#Anxiety
#Eating Disorder
Patient w/history of depression/anxiety and multiple recent 
visits to ED, outpatient providers for somatic complaints with 
negative work up. On admission, patient's ROS completely 
positive, but labs and imaging reveal no source of infection. 
Concern for psych contributing to her frequent presentations a 
symptoms. Continued Duloxetine, Lorazepam and Clonazepam. 

CHRONIC ISSUES: 
===============
#GERD: continued omeprazole  

#Gastroparesis: continued Metoclopramide  

#Hypertension: Held Valsartan and Furosemide held initially in 
setting of ___. Cr trended to baseline and meds resumed upon 
discharge.

TRANSITIONAL ISSUES
===================
# NEW MEDICATIONS: Oral nystatin, Colace, Miralax 
[] Pt given 1x dose PO Fluconazole in ED for potential candidal 
vaginitis. If vaginitis recurs, consider repeat ___ repeat doses 
of Fluconazole q72hr, first potential dose ___ 
[] Patient discharged with Rx for nystatin for thrush to be 
continued for 48hr after sx resolution.

# CODE STATUS: Full 
# CONTACT: Mother ___ ___, c ___ Father 
___ ___ 
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Valsartan 160 mg PO DAILY 
2. Gabapentin 300 mg PO BID 
3. Topiramate (Topamax) 250 mg PO QHS 
4. ClonazePAM 4 mg PO QHS 
5. LORazepam 1 mg PO BID:PRN anxiety 
6. Senna 8.6 mg PO BID:PRN constipation 
7. norethindrone (contraceptive) 1 TAB PO DAILY 
8. Atorvastatin 60 mg PO QPM 
9. Insulin  Pump SC (Self Administering Medication)Insulin 
Aspart (Novolog) (non-formulary)
Basal rate minimum: per patient units/hr
Basal rate maximum: per patient units/hr
Bolus minimum: per patient units
Bolus maximum: per patient units
Target glucose: 80-180

10. Furosemide 80 mg PO BID 
11. OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
12. melatonin 10 mg oral QHS 
13. Metoclopramide 10 mg PO QIDACHS 
14. Omeprazole 20 mg PO DAILY 
15. Aspirin 81 mg PO DAILY 
16. DULoxetine 30 mg PO DAILY 
17. armodafinil 500 mg oral DAILY 
18. Vitamin D 1000 UNIT PO DAILY 
19. Topiramate (Topamax) 50 mg PO QAM 
20. TraZODone 50 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth 
BID:PRN Disp #*14 Capsule Refills:*0 
2.  Nystatin Oral Suspension 5 mL PO QID:PRN throat pain 
RX *nystatin 100,000 unit/mL 4 ml by mouth every six (6) hours 
Refills:*0 
3.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily:PRN Disp #*10 Packet Refills:*0 
4.  armodafinil 500 mg oral DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 60 mg PO QPM  
7.  ClonazePAM 4 mg PO QHS  
8.  DULoxetine 30 mg PO DAILY  
9.  Furosemide 80 mg PO BID  
10.  Gabapentin 300 mg PO BID  
11.  Insulin  Pump SC (Self Administering Medication)Insulin 
Aspart (Novolog) (non-formulary)
Basal rate minimum: per patient units/hr
Basal rate maximum: per patient units/hr
Bolus minimum: per patient units
Bolus maximum: per patient units
Target glucose: 80-180
 
12.  LORazepam 1 mg PO BID:PRN anxiety  
13.  melatonin 10 mg oral QHS  
14.  Metoclopramide 10 mg PO QIDACHS  
15.  norethindrone (contraceptive) 1 TAB PO DAILY  
16.  Omeprazole 20 mg PO DAILY  
17.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate  
18.  Senna 8.6 mg PO BID:PRN constipation  
19.  Topiramate (Topamax) 50 mg PO QAM  
20.  Topiramate (Topamax) 250 mg PO QHS  
21.  TraZODone 50 mg PO QHS:PRN insomnia  
22.  Valsartan 160 mg PO DAILY  
23.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
=======
Candidal Vaginitis
Hyperglycemia
Type I Diabetes
___ on CKD

SECONDARY
=========
GERD
Gastroparesis
HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after you were feeling unwell 
at home and found to have high blood sugars. You had signs of a 
fungal infection and we gave you fluconazole, an anti-fungal 
medication. Our Diabetes specialists evaluated you and thought 
your high sugards were from the fungal infection and that you 
were safe for discharge. You will follow up with them closely in 
a few days.

It was a pleasure taking care of you!

Your ___ Team
 
Followup Instructions:
___